US08865726B2
To a solution of (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (0.7 g, 1.9 mmol) in dioxane bubbled with nitrogen was added sodium carbonate (2.0 M, 4.9 mL, 9.7 mmol) and 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (1.0 g, 2.5 mmol), and the reaction was degassed with nitrogen for 30 minutes. XPHOS (0.093 g, 0.19 mmol) and Pd2 dba3 (0.089 g, 0.097 mmol) were added to the mixture and the reaction was stirred for 2 hours at 80° C. The reaction was poured into water and the aqueous layer extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The crude material purified by normal phase chromatography using 25% EtOAc/DCM as the eluent to yield (S)-4-phenyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.80 g, 1.4 mmol, 74% yield).

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 1.9 mmol, 0.7 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C15H11BrN4O2
reactant | sodium carbonate | 9.7 mmol, 2.0 M, 4.9 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 2.5 mmol, 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C | C20H32BN3O3Si
reactant | XPHOS | 0.19 mmol, 0.093 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.097 mmol, 0.089 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (S)-4-phenyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 1.4 mmol, 0.80 g, 74% yield | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C29H31N7O3Si
